US05340802
4a: 2-Bromo-nonanoic acid
To a mixture of nonanoic acid (20 g, 126 mmol) and bromine (24.3 g 152 mmol) was added phosphorous trichloride (5.2 g, 38 mmol) slowly over 0.5 hour. The mixture was refluxed for 3 days and then diluted with ethyl acetate (200 mL). The organic phase was washed with aqueous saturated NaHSO3 (3×), separated, dried over anhydrous sodium sulfate, and the solvent removed in vacuo to yield 27.0 g of the title compound as a brown oil. 1H NMR (CDCl3, 60 MHz) δ0.70 (m, 3H), 1.20 (m, 9H), 1.90 (m, 3H), 4.13 (m, 1H), 10.80 (br s, 1H).

reactant | nonanoic acid | 126 mmol, 20 g | C(CCCCCCCC)(=O)O | C9H18O2
reactant | bromine | 152 mmol, 24.3 g | BrBr | Br2
reactant | phosphorous trichloride | 38 mmol, 5.2 g | P(Cl)(Cl)Cl | Cl3P
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-nonanoic acid | 27.0 g | BrC(C(=O)O)CCCCCCC | C9H17BrO2
